US04145432
To a solution of diethyl 2-methyl-4-(2-chlorophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (452 mg) in acetone (5 ml) was added 6N-hydrochloric acid (0.2 to 0.3 ml) and stirred at room temperature for an hour. After removing acetone, the residue was extracted with ethyl acetate twice and the extract was washed with water and dried. The solvent was removed from the extract to give diethyl 2-methyl-4-(2-chlorophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate. The product was recrystallized from a mixture of n-hexane and diethyl ether to give the pure product, m.p. 87° to 88° C.

reactant | diethyl 2-methyl-4-(2-chlorophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 452 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)C(OCC)OCC | C23H30ClNO6
reactant | hydrochloric acid | 0.2 to 0.3 ml | Cl | ClH
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(2-chlorophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)C=O | C19H20ClNO5
